US06872731B2
A stirred suspension of 4-methoxypyridin-2-ylamine (4.50 g, 36.3 mmol), chloroacetaldehyde (8.54 g of a 50 wt % solution in water, 54.4 mmol) and sodium hydrogencarbonate (6.09 g, 72.6 mmol) in ethanol (70 ml) was heated under reflux for 4 h. The solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic layer was washed with brine, dried and evaporated to give an orange oil. Purification by silica gel chromatography eluting with 2% methanol in dichloromethane gave 7-methoxyimidazo[1,2-α]pyridine (2.40 g, 45%) as a brown oil. 1H NMR (400 MHz, CDCl3) δH 3.85 (3H, s), 6.50 (1H, d, J 7), 6.88 (1H, s), 7.41 (1H, s), 7.48 (1H, s), 7.92 (1H, d, J 7).

reactant | 4-methoxypyridin-2-ylamine | 36.3 mmol, 4.50 g | COC1=CC(=NC=C1)N | C6H8N2O
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sodium hydrogencarbonate | 72.6 mmol, 6.09 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 7-methoxyimidazo[1,2-α]pyridine | 2.40 g, 45% | COC1=CC=2N(C=C1)C=CN2 | C8H8N2O
